US06265415B1
Synthesis of 2,6-dimethyl-8-(2-ethyl-6-methylbenzylamino)-3-hydroxymethylimidazo[1,2-a]pyridine
3-Carboethoxy-2,6-dimethyl-8-(2-ethyl-6-methylbenzylamino)imidazo[1,2-a]pyridine (1.0 g 2.8 mmol) was added to tetrahydrofuran (25 ml) and was stirred at +5° C. Lithium aluminum hydride (0.5 g, 13 mmol) was added in portions during 1.5 h so that the temperature remained below +10° C. After stirring the mixture at room temperature for an additional 1 h, 0.5 ml of water was added dropwise, followed by 0.5 ml of 15% sodium hydroxide and then 1.5 ml of water. The solids were removed by filtration and washed thoroughly with tetrahydrofuran and methylene chloride. The filtrate and washings were combined and dried and the solvents were removed under reduced pressure. The residue was solved in methylene chloride and washed with water. The organic layer was separated, dried over sodium sulfate, evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using ethylacetate:methylene chloride (1:1) as eluent. Crystallization from petroleum ether:diethyl ether (1:1) gave 0.37 g (41%) of the title compound.

reactant | 3-Carboethoxy-2,6-dimethyl-8-(2-ethyl-6-methylbenzylamino)imidazo[1,2-a]pyridine | 2.8 mmol, 1.0 g | C(=O)(OCC)C1=C(N=C2N1C=C(C=C2NCC2=C(C=CC=C2C)CC)C)C | C22H27N3O2
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | Lithium aluminum hydride | 13 mmol, 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
solvent | water | 1.5 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
product | 2,6-dimethyl-8-(2-ethyl-6-methylbenzylamino)-3-hydroxymethylimidazo[1,2-a]pyridine | 0.37 g, 41% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C)C1CO | C20H25N3O
